US07517996B2
(Step A-1) Synthesis of 2-methoxycarbonylvinyl 4-nitrobenzoate
4-Nitrobenzoic acid (10 g, 59.8 mmol) and methyl propargylate (5.5 g, 65.8 mmol) were dissolved in acetonitrile (100 ml), N-methylmorpholine (3 g, 30 mmol) was added, and the mixture was stirred overnight at 40° C. The reaction mixture was concentrated under reduced pressure, and the residue was washed with ether to give the title compound (12.6 g, 50.2 mmol, 83.9%).

reactant | 4-Nitrobenzoic acid | 59.8 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | methyl propargylate | 65.8 mmol, 5.5 g | C(C#C)(=O)OC | C4H4O2
reactant | N-methylmorpholine | 30 mmol, 3 g | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-methoxycarbonylvinyl 4-nitrobenzoate | 50.2 mmol, 12.6 g, 83.9% | [N+](=O)([O-])C1=CC=C(C(=O)OC=CC(=O)OC)C=C1 | C11H9NO6
